US06194574B1
D. 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2,3-b]-indolizine
A solution of 4-hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrido-[2,3-b]indolizine (10.1 g; 32 mmol) in phosphorus oxychloride (60 mL) is heated at 100° C. for 1 hour, cooled to room temperature, and concentrated in vacuo. The residue is partitioned into ice water and dichloromethane. The aqueous phase is separated and extracted twice with dichloromethane. The combined organics are washed with a 1 N aqueous sodium hydroxide solution and then with water. The solution is dried (Na2SO4), filtered, and concentrated in vacuo, and the resulting dark residue is filtered through a short pad of silica gel and washed with 25% ethyl acetate in hexane. The filtrate is concentrated in vacuo to give 10.1 g of the title compound as a yellow solid (94%): 1H nmr (400 MHz, CDCl3) d 2.00 (s, 6 H), 2.37 (s, 3 H), 2.64 (s, 3 H), 6.58 (t, 1 H), 6.95 (dd, 1 H), 7.00 (s, 2 H), 7.07 (s, 1 H), 7.08 (d, 1 H), 9.26 (d, 1 H).

reactant | 4-hydroxy-2-methyl-10-(2,4,6-trimethylphenyl)pyrido-[2,3-b]indolizine | 32 mmol, 10.1 g | OC1=CC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C21H20N2O
reactant | phosphorus oxychloride | 60 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-2-methyl-10-(2,4,6-trimethylphenyl)pyrido[2,3-b]-indolizine | 10.1 g, 94% | ClC1=CC(=NC=2C(=C3C=CC=CN3C21)C2=C(C=C(C=C2C)C)C)C | C21H19ClN2
